US07462623B2
7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline
Using a similar procedure to that described in Example 1, a solution of 4-amino-5-chloro-2,3-methylenedioxypyridine (0.193 g) in DMF (2 ml) was added to a stirred suspension of sodium hydride (60% dispersion in mineral oil, 0.048 g) in DMF (2 ml) and the mixture was stirred at ambient temperature for 15 minutes. A solution of 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-chloro-6-methoxyquinazoline [International Patent Application WO 02/16352 (Note [24] within Example 2 thereof; 0.38 g] in DMF (4 ml) was added and the resultant mixture was stirred at ambient temperature for 1 hour. The reaction mixture was partitioned between ethyl acetate and brine. The organic phase was dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 49:1 mixture of methylene chloride and methanol. There was thus obtained the title compound as a solid (0.24 g); NMR Spectrum: DMSOd6) 1.29 (m, 2H), 1.45 (s, 9H), 1.8 (m, 2H), 2.04 (m, 1H), 2.83 (m, 2H), 4.0 (m, 7H), 8.12 (br s, 2H), 7.17 (br s, 1H), 7.72 (m, 2H), 8.37 (br s, 1H), 9.37 (br s, 1H); Mass Spectrum: M+H+ 544 and 546.

reactant | 4-amino-5-chloro-2,3-methylenedioxypyridine | 0.193 g | NC1=C2C(=NC=C1Cl)OCO2 | C6H5ClN2O2
reactant | sodium hydride | 0.048 g | [H-].[Na+]
reactant | 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-chloro-6-methoxyquinazoline | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C20H26ClN3O4
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline | 0.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1Cl)OCO2)OC | C26H30ClN5O6
